US04647301
A solution of 6-difluoromethoxyquinoline-2,3-dicarboxylic acid anhydride (0.037 mol) in 250 mL THF is stirred at 5° C. under nitrogen and a solution containing 2-amino-2,3-dimethylbutyramide (0.037 mol) in 50 mL THF added dropwise. After stirring at room temperature for 17 hours, the solvent is removed in vacuo to give the desired 6-difluoromethoxy-2-[(1-carbamoyl-1,2-dimethylpropyl)-carbamoyl]-3-quinolinecarboxylic acid mp 194°-196° C.

reactant | 6-difluoromethoxyquinoline-2,3-dicarboxylic acid anhydride | 0.037 mol | FC(OC=1C=C2C=C3C(=NC2=CC1)C(=O)OC3=O)F | C12H5F2NO4
reactant | 2-amino-2,3-dimethylbutyramide | 0.037 mol | NC(C(=O)N)(C(C)C)C | C6H14N2O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6-difluoromethoxy-2-[(1-carbamoyl-1,2-dimethylpropyl)-carbamoyl]-3-quinolinecarboxylic acid | FC(OC=1C=C2C=C(C(=NC2=CC1)C(NC(C(C)C)(C)C(N)=O)=O)C(=O)O)F | C18H19F2N3O5
